US09120749B2
(6-(3-Chloro-5-fluoro-4-hydroxyphenyl)-4-(1-(1-methylpiperidin-4-yl)-1H-pyrazol-4-ylamino)quinolin-3-yl)(cyclopropyl)methanone
Following general procedure D, (6-bromo-4-(1-(1-methylpiperidin-4-yl)-1H-pyrazol-4-ylamino)quinolin-3-yl)(cyclopropyl)methanone (50 mg, 0.11 mmol) was reacted with 2-chloro-6-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol (47 mg, 0.17 mmol) to afford the desired product (35 mg, 59%) as a yellow-green solid: 1H NMR (500 MHz, CD3OD+TFA-d) δ 9.94 (s, 1H), 8.24 (m, 1H), 8.02 (m, 2H), 7.68 (s, 1H), 7.22 (s, 2H), 4.62 (t, J=5.3 Hz, 1H), 3.69 (d, J=12.7 Hz, 2H), 3.50 (s, 1H), 3.25 (m, 2H), 2.95 (s, 3H), 2.39 (m, 4H), 1.24 (m, 4H); ESI MS m/z 520 [C28H27ClFN5O2+H]+; HPLC 99.5% (AUC), tR=10.37 min.

reactant | (6-bromo-4-(1-(1-methylpiperidin-4-yl)-1H-pyrazol-4-ylamino)quinolin-3-yl)(cyclopropyl)methanone | 0.11 mmol, 50 mg | BrC=1C=C2C(=C(C=NC2=CC1)C(=O)C1CC1)NC=1C=NN(C1)C1CCN(CC1)C | C22H24BrN5O
reactant | 2-chloro-6-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol | 0.17 mmol, 47 mg | ClC1=C(C(=CC(=C1)B1OC(C(O1)(C)C)(C)C)F)O | C12H15BClFO3
product | (6-(3-Chloro-5-fluoro-4-hydroxyphenyl)-4-(1-(1-methylpiperidin-4-yl)-1H-pyrazol-4-ylamino)quinolin-3-yl)(cyclopropyl)methanone | 35 mg, 59% | ClC=1C=C(C=C(C1O)F)C=1C=C2C(=C(C=NC2=CC1)C(=O)C1CC1)NC=1C=NN(C1)C1CCN(CC1)C | C28H27ClFN5O2
